US07645784B2
2-(6,7-Difluoro-1H-benzimidazol-1-yl)-N-[3-(trifluoromethyl)phenyl]acetamide
To a suspension of 4,5-difluoro-1H-benzimidazole (20 mg, 0.13 mmol) in toluene (260 μL), triethylamine (18 μL, 0.13 mmol) and 2-bromo-N-[3-(trifluoromethyl)phenyl]acetamide (37 mg, 0.13 mmol) were added. The reaction mixture was microwave-irradiated in a sealed vial at 120° C. for 30 min. The vial was cooled, opened and the contents dissolved in 20 mL ethyl acetate. The solution was washed with water (5 mL), saturated aqueous NaHCO3 (5 mL) and brine (5 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure. Separation of the isomers in the crude product was performed on flash silica column using neat ethyl acetate to yield the title compound (11.3 mg, 25%). MS (ESI) m/z: 355.8 [M+H] 1H NMR (400 MHz, MeOD) δ ppm 5.31 (s, 2H), 7.20 (ddd, J=11.4, 9.0, 7.5 Hz, 1H), 7.40 (d, J=7.8 Hz, 1H), 7.47 (ddd, J=8.9, 3.7, 1.3 Hz, 1H), 7.52 (t, J=8.1 Hz, 1H), 7.79 (d, J=8.8 Hz, 1H), 7.96 (s, 1H), 8.20 (s, 1H).

reactant | 4,5-difluoro-1H-benzimidazole | 0.13 mmol, 20 mg | FC1=C(C=CC=2NC=NC21)F | C7H4F2N2
reactant | triethylamine | 0.13 mmol, 18 μL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-N-[3-(trifluoromethyl)phenyl]acetamide | 0.13 mmol, 37 mg | BrCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C9H7BrF3NO
solvent | toluene | 260 μL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(6,7-Difluoro-1H-benzimidazol-1-yl)-N-[3-(trifluoromethyl)phenyl]acetamide | 11.3 mg, 25% | FC=1C=CC2=C(N(C=N2)CC(=O)NC2=CC(=CC=C2)C(F)(F)F)C1F | C16H10F5N3O
